US06034275
A.a) A solution of 105 g of 80% sodium chlorite and 100 g of sodium dihydrogen phosphate in 1 l of water is added within 30 min. to 50 g of (4E,8E)-(RS)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dienal in 1.5 l of tert-butanol and 1.5 1 of 2-methyl-2-butene. After 2 1/2 hrs. at room temperature the mixture is concentrated and the residue is taken up in methylene chloride, washed with ice-water and 10% potassium hydrogen sulphate solution and dried. 46.5 g of (4E,8E)-(RS)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy])-deca-4,8-dienoic acid are obtained. The acid obtained is dissolved in 590 ml of methylene chloride and treated at 0° C. with 14.9 ml of N-allyl-methyl-amine, 32.0 g of N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride and 1.88 g of dimethylaminopyridine. After 3 hrs. at room temperature and working up with methylene chloride/10% potassium hydrogen sulphate and subsequently saturated sodium hydrogen carbonate solution the organic phase is dried and concentrated. 52.3 g of crude (4E,8E)-(RS)-4,8-dimethyl-1 0-(tetrahydro-pyran-2-yloxy)-deca-4,8-dienoic acid allyl-methylamide are obtained.

reactant | sodium chlorite | 105 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | 100 g | P(=O)(O)(O)[O-].[Na+]
reactant | (4E,8E)-(RS)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dienal | C/C(/CCC=O)=C\CC\C(=C\COC1OCCCC1)\C | C17H28O3
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 1 l | O | H2O
solvent | tert-butanol | 1.5 l | C(C)(C)(C)O | C4H10O
product | deca-4,8-dienoic acid | C(CCC=CCCC=CC)(=O)O | C10H16O2
